US04115385
To a stirred mixture of 1.15 g. (10 m mole) of maleamic acid and 1.40 ml. of triethylamine in 40 ml. of dry tetrahydrofuran, at 0° C., is added 1.57 ml. (12 m mole) of isobutyl chloroformate followed by three drops of N-methylmorpholine. Stirring is continued for a further 30 minutes at 0° C. To this mixed anhydride is then added a solution prepared by adding 2.40 g. (10 m mole) of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam to a mixture of 15 ml. of water and 15 ml. of tetrahydrofuran and adjusting the pH to 7.5. The resulting mixture is then stirred for a further 1 hour at 0° C. At this point, the tetrahydrofuran is removed by evaporation in vacuo, and the residue is diluted with more water. The pH is adjusted to 8.0 with 6 N sodium hydroxide, and then the mixture is extracted with ethyl acetate. The extracts are discarded. The pH of the residual aqueous phase is adjusted to 2.0 with 4 N hydrochloric acid and then the product is extracted into ethyl acetate. The organic layer is dried and concentrated in vacuo to give 6-(3-[carbamoyl]-acrylamido)-2,2-dimethyl-3-(5-tetrazolyl)penam (1.03 g., 33% yield). The infrared spectrum (KBr disc) of the product shows absorption bands at 1818 cm-1 (β-lactam) and 1692 cm-1. The NMR spectrum (DMSO-d6) shows bands at 7.00 and 6.25 (quartet, 2H, J = 12 Hz, olefinic hydrogens), 5.80-5.48 ppm (multiplet, 2H, C-5 and C-6 hydrogens), 5.26 ppm (singlet, 1H, C-3 hydrogen), 1.65 ppm (singlet, 3H, C-2 methyl hydrogens) and 1.06 ppm (singlet, 3H, C-2 methyl hydrogens).

reactant | maleamic acid | C(\C=C/C(=O)N)(=O)O | C4H5NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
catalyst | N-methylmorpholine | three drops | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-(3-[carbamoyl]-acrylamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 1.03 g, 33% yield | C(N)(=O)C=CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C12H15N7O3S
